US05506267
(4-(6,7-bis(palmitoyloxy)-2-methyl-4-thiaheptanoyl)amino-benzoyl)glutamic acid di-t-butyl ester
To a solution of 4-aminobenzoylglutamic acid di-t-butyl ester (378 mg) in pyridine (5 ml), phosphorus trichloride (0.044 ml) was added, followed by stirring at room temperature for 2 hours. To this solution, 6,7-bis(palmitoyloxy)-2-methyl-4-thiaheptanoic acid as obtained in Reference Example 42 (336 mg) was added, followed by stirring at room temperature for 24 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate =2:1) to yield the title compound (315 mg, yield 62%) as a wax-like substance.

reactant | 4-aminobenzoylglutamic acid di-t-butyl ester | 378 mg | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCC(=O)OC(C)(C)C)=O | C20H30N2O5
reactant | 6,7-bis(palmitoyloxy)-2-methyl-4-thiaheptanoic acid | C(CCCCCCCCCCCCCCC)(=O)OC(CSCC(C(=O)O)C)COC(CCCCCCCCCCCCCCC)=O | C39H74O6S
reactant | water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | phosphorus trichloride | 0.044 ml | P(Cl)(Cl)Cl | Cl3P
product | (4-(6,7-bis(palmitoyloxy)-2-methyl-4-thiaheptanoyl)amino-benzoyl)glutamic acid di-t-butyl ester | 315 mg, yield 62% | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(C(CSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)C)=O)=O)CCC(=O)OC(C)(C)C)=O | C59H102N2O10S
